* C:\users\omar\My Documents\University\IX_Semester\Disenio\Easyrun\Circuit Design\LTspice Simulations\Gate_Driver.asc
R1 vOO 0 100
C1 vOO 0 1µ Rser=1m
L1 Vs vOO 20µ Rser=56m
D1 0 Vs 1N5819
M1 N001 PWM_o Vs Vs IRFZ44N
V1 N001 0 10
XU1 NC_01 PWM_o 0 0 0 PWM_in 12v0 N002 Vs 12v0 0 IR2110
C2 N002 Vs 0.47µ
D2 12v0 N002 TDZ6_8B
V2 PWM_in 0 PULSE(0 5 0 0 0 6.25u 12.5u)
V3 5v0 0 5
V4 12v0 0 12
.model D D
.lib C:\users\omar\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\omar\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m uic
.lib C:\users\omar\My Documents\University\IX_Semester\Disenio\Easyrun\Circuit Design\LTspice Simulations\IR2110.net
.backanno
.end
